US08754226B2
To a stirred solution of (S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate (370 mg, 0.757 mmol) in methanol (5 mL) was added, 5 M HCl in IPA (1.51 mL, 7.57 mmol) and the mixture was stirred at ambient temperature for 6 hours and concentrated in vacuo. The residue was stirred in 1M NaOH (20 mL) and DCM (25 mL). The organic layers were combined, dried (Na2SO4), filtered and concentrated in vacuo to give (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one as light brown foam (282 mg, 0.726 mmol, 96% yield). Mass spectrum (apci) m/z=389.1 (M+H).

reactant | (S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 0.757 mmol, 370 mg | FC1=C(O[C@@H]2C(N(CCC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C(C(=C1)S(=O)(=O)C)F | C22H30F2N2O6S
reactant | HCl | 5 M | Cl | ClH
reactant | IPA | 7.57 mmol, 1.51 mL | CC(C)O | C3H8O
solvent | methanol | 5 mL | CO | CH4O
product | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one | 0.726 mmol, 282 mg, 96% yield | FC1=C(O[C@@H]2C(N(CCC2)C2CCNCC2)=O)C=C(C(=C1)S(=O)(=O)C)F | C17H22F2N2O4S
